US07884207B2
Palladium hydroxide (2.3 g of 20% on carbon) was added to a solution of 1-methyl-4-nitromethylpiperidin-4-ol (11.57 g) in ethanol (120 mL). The mixture was placed under hydrogen pressure (50 psi, 3.4×105 Pa) on a Parr apparatus for 55 hours. The reaction mixture was filtered through a layer of CELITE filter aid and the filter cake was rinsed with methanol (100 mL). The filtrate was concentrated under reduced pressure to provide 10.18 g of 4-aminomethyl-1-methylpiperidin-4-ol as a thick oil.

reactant | 1-methyl-4-nitromethylpiperidin-4-ol | 11.57 g | CN1CCC(CC1)(O)C[N+](=O)[O-] | C7H14N2O3
solvent | ethanol | 120 mL | C(C)O | C2H6O
catalyst | Palladium hydroxide | 2.3 g | [OH-].[Pd+2].[OH-]
product | 4-aminomethyl-1-methylpiperidin-4-ol | 10.18 g | NCC1(CCN(CC1)C)O | C7H16N2O
